US04001419
4-Acetoxy-1'-(prop-2-ynyl)xanthene-9-spiro-4'-piperidine hydrochloride (0.4 g.) is stirred with 3N hydrochloric acid (20 ml.) at room temperature for 24 hours. The solution is basified using solid sodium bicarbonate and extracted with ethyl acetate. The ethyl acetate extract is dried over MgSO4 and evaporated to give a gummy residue which is dissolved in ether and treated with ethereal hydrochloric acid. The precipitate is recrystallised from ethanol-ether to give 4-hydroxy-1'-(prop-2-ynyl)xanthene-9-spiro-4'-piperidine hydrochloride, m.p. 246°-247° C.

reactant | 4-Acetoxy-1'-(prop-2-ynyl)xanthene-9-spiro-4'-piperidine hydrochloride | 0.4 g | Cl.C(C)(=O)OC1=CC=CC2=C1OC1=CC=CC=C1C21CCN(CC1)CC#C
reactant | hydrochloric acid | 3N, 20 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ether | CCOCC | C4H10O
product | 4-hydroxy-1'-(prop-2-ynyl)xanthene-9-spiro-4'-piperidine hydrochloride | Cl.OC1=CC=CC2=C1OC1=CC=CC=C1C21CCN(CC1)CC#C | InChI=1S/C20H19NO2.ClH/c1-2-12-21-13-10-20(11-14-21)15-6-3-4-9-18(15)23-19-16(20)7-5-8-17(19)22;/h1,3-9,22H,10-14H2;1H
